US07282506B2
Preparation of 8-Bromo-[1,6]naphthyridine-2-carboxylic acid chloride
Oxalyl chloride (1.5 equiv.) is added drop wise to a slurry of 8-Bromo-[1,6]naphthyridine-2-carboxylic acid (1 equiv., in 20 mL DMF) at 0° C. (ice bath) and stirred for 30 minutes. The reaction mixture is removed from the ice bath, stirred at room temperature for 3 h and then concentrated in vacuo to give a greenish colored solid, which is used immediately without further purification.

reactant | Oxalyl chloride | 1.5 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 8-Bromo-[1,6]naphthyridine-2-carboxylic acid | 20 mL, 1 equiv. | BrC=1C=NC=C2C=CC(=NC12)C(=O)O | C9H5BrN2O2
product | 8-Bromo-[1,6]naphthyridine-2-carboxylic acid chloride | BrC=1C=NC=C2C=CC(=NC12)C(=O)Cl | C9H4BrClN2O
